US08748418B2
To a solution of 5,6,7,8-tetrahydroquinoline-3-carbonitrile (633 mg, 4.00 mmol) in acetic acid (5 ml) at 40° C. was portionwise added sodium perborate tetrahydrate (677 mg, 4.4 mmol) and the mixture was stirred at 40° C. for 16 hours. The acetic acid was removed by evaporation under reduced pressure, the residue was basified with aqueous saturated NaHCO3 solution, the mixture extracted thrice with ethyl acetate, the combined extracts were dried over Na2SO4 and the solvent removed in vacuum to give the 3-cyano-5,6,7,8-tetrahydroquinoline 1-oxide (645 mg, 3.7 mmol, 92.5% yield) as a white solid. MS (ISP): m/z=175.1 [(M+H)+].

reactant | 5,6,7,8-tetrahydroquinoline-3-carbonitrile | 4.00 mmol, 633 mg | N1=CC(=CC=2CCCCC12)C#N | C10H10N2
reactant | sodium perborate tetrahydrate | 4.4 mmol, 677 mg | B1(OO1)[O-].O.O.O.O.[Na+]
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 3-cyano-5,6,7,8-tetrahydroquinoline 1-oxide | 3.7 mmol, 645 mg, 92.5% yield | C(#N)C=1C=[N+](C=2CCCCC2C1)[O-] | C10H10N2O
